US07612114B2
Synthesized from 5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (522 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (521 mg). This compound (519 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (365 mg).

reactant | 5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1(C)C)OC | C20H25NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 522 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2(C)C)OC)C=C1 | C35H46N2O3
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 521 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2(C)C)OC)CC)C=C1 | C37H50N2O3
